US05616579
N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-4-(4,6-diamino-2-pyrimidinylthio)butyramide
Following a procedure similar to that described in Example 34, but using N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-4-chlorobutyramide (prepared as described in Preparation 2) and 4,6-diamino-2-mercaptopyrimidine as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as an oil in a 48% yield.

reactant | N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-4-chlorobutyramide | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCCCl)=O | C19H28ClN3O2
reactant | 4,6-diamino-2-mercaptopyrimidine | NC1=NC(=NC(=C1)N)S | C4H6N4S
product | N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-4-(4,6-diamino-2-pyrimidinylthio)butyramide | 48% yield | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCCSC1=NC(=CC(=N1)N)N)=O | C23H33N7O2S
